* sg13g2-lna -- npn13G2 open-base breakdown extraction, BENCH A
* (current-driven continuation). Issue #20.
*
* Generated from
* sim/breakdown-extraction/testbench/tb_bvceo_iforce.spice.tmpl by
* sim/breakdown-extraction/run_breakdown_sweep.sh -- do not edit a
* generated netlist-snapshots/*.spice file directly, edit this template
* and re-run the sweep. Full methodology, bench definitions, extraction
* criteria and the model-validity caveats are in
* sim/breakdown-extraction/README.md; this header is a short pointer.
*
* Generated for: HBT_SECTION=hbt_typ TEMP=-40 Nx=8
* selft=0 RB=1e12 Ohm, collector current forced over
* 61 logarithmic points at 8 points/decade,
* starting at Nx * 1e-10 A.
*
* WHY CURRENT-DRIVEN, NOT A VOLTAGE-DRIVEN .dc SWEEP
* --------------------------------------------------
* The open-base common-emitter characteristic I_CEO(V_CE) is an
* S-shaped snapback locus: once avalanche-generated base current feeds
* the device's own current gain, the sustained current rises at a
* *falling* collector voltage, so I_C is NOT a single-valued function of
* V_CE and a voltage-driven .dc sweep has two (or three) solutions to
* choose between at every step. ngspice's continuation then follows
* whichever branch its previous-point initial guess lands on -- exactly
* the failure documented in
* spec/decision-records/0001-bias-supply-topology.md and in issue #20:
* an uncommitted voltage-driven spot check found the runaway only at
* 27 C, stayed on the leakage branch through 1.90 V at -40 C and
* +125 C, and snapped back to the leakage branch above ~3.0 V at 27 C.
*
* V_CE, by contrast, IS single-valued in the forced collector current
* over this locus, so forcing I_C and *measuring* V_CE removes the
* branch ambiguity entirely. Stepping I_C logarithmically (a source-
* stepping continuation) keeps every successive Newton solve close to
* the previous solution. The companion voltage-driven bench
* (tb_bvcer_vsweep.spice.tmpl) is committed alongside this one as the
* *control* that reproduces the naive method's failure at a quasi-open
* base -- it is not the open-base extraction.
*
* SCOPE: this bench is the OPEN-BASE (BVCEO) extraction. It is run with
* a finite/shorted base termination only as a small, explicitly-labelled
* METHOD PROBE (see README.md "Why Bench A is open-base only"): with the
* base held to the emitter the device is off, there is no
* avalanche-sustained branch to find, and forcing even 0.1 nA drives the
* solver to tens of volts and then into a self-heating NaN. BVCER/BVCES
* are extracted on Bench B instead, where the held-base characteristic
* is monotone and single-valued and the voltage-driven sweep is sound.
*
* TOPOLOGY
* --------
*   Iforce 0 c   -- an ideal DC current source injecting the forced
*                   collector current into node c. Node c connects to
*                   nothing else, so the device's collector terminal
*                   current is exactly the forced value; V_CE = v(c)
*                   (the emitter sits at 0 V through Ve) is the
*                   *measured* quantity.
*   Rbe b e      -- base termination. RB = 1e12 Ohm is "open" to well
*                   under a part in 1e6 of the smallest swept current:
*                   at the ~0.4-0.9 V the base floats to, it leaks
*                   <1 pA.
*   Ve e 0       -- emitter at ground through a 0 V source, so i(Ve) is
*                   available as the emitter-terminal current.
*   XQ1's 4th terminal (bn, the buried-layer/substrate node) is tied to
*   0, i.e. to the emitter reference -- the same connection
*   sim/hbt-characterization/testbench/tb_hbt_sweep.spice.tmpl uses.
*
* NO RF PORT, NO 50 OHM REFERENCE. This is a DC-only bench; nothing
* here is terminated, matched, or referenced to 50 Ohm, and no noise or
* S-parameter quantity is produced. The only measured quantities are the
* DC node voltages v(c), v(b) and the emitter current i(Ve) at each
* forced collector current.
*
* SELF-HEATING is under explicit control via the subckt's own selft
* parameter (selft=1 is the PDK default; selft=0 forces
* rth = selft*3.26e3*(4/Nx)**0.9 to 0 and so disables the VBIC thermal
* node). Every open-base cell is run BOTH ways -- see README.md
* "Self-heating".
*
* NOTE ON EXECUTION ORDER: each measured value is echoed IMMEDIATELY
* after the op that produced it, on its own line, before the loop
* advances -- the same "current plot" discipline
* sim/hbt-characterization/testbench/tb_hbt_sweep.spice.tmpl documents.
* Echoing one value per line (rather than several per line) also means a
* non-converged op yields an empty value in a known column instead of
* silently shifting the parse.
*
* NOTE ON THE MEASUREMENT STREAM: the echoes are redirected to their own
* file (/Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/a_nx8_sf_-40c_rbopen_st0.meas, committed next to the console log under
* corners/<record-id>/) rather than left on the console. ngspice's
* dynamic-gmin-stepping "Note:" diagnostics are written by a different
* code path and DO interleave mid-line with console echoes on these
* cells -- observed producing rows like "VCE 2.80Note:" -- which would
* silently corrupt a measurement rather than fail loudly. A separate
* stream cannot be interleaved. The console log is still captured in
* full as the raw evidence.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ

.options temp=-40 tnom=27

Iforce 0 c dc 1e-10
Rbe b e 1e12
Ve e 0 dc 0
XQ1 c b e 0 npn13G2 Nx=8 selft=0

.control
let i = 0
let n = 61
dowhile i < n
  let ival = 8 * 1e-10 * 10^(i/8)
  echo "PT $&ival" >> /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/a_nx8_sf_-40c_rbopen_st0.meas
  alter Iforce = $&ival
  op
  let vcval = v(c)
  let vbval = v(b)
  let ieval = i(Ve)
  echo "VCE $&vcval" >> /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/a_nx8_sf_-40c_rbopen_st0.meas
  echo "VBE $&vbval" >> /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/a_nx8_sf_-40c_rbopen_st0.meas
  echo "IE $&ieval" >> /Users/rwalters/GitHub/sg13g2-lna/.loom/worktrees/issue-20/sim/breakdown-extraction/corners/20260918-212948-013274f/a_nx8_sf_-40c_rbopen_st0.meas
  let i = i + 1
end
.endc
.end
